US08133908B2
Description 18: 6-Methyl-3-(2-pyrimidinyl)-2-pyridinecarbonitrile (D18)
Isopropylmagnesium chloride-LiCl (37.9 ml, 36.5 mmol) was added portion wise (in overall 10 min) to a solution of 3-bromo-6-methyl-2-pyridinecarbonitrile (4 g, 20.30 mmol) in THF (150 ml) cooled to −70° C. (internal temperature). The reaction was kept to that temperature for 15 min. Then it was allowed to gently warm up to −40° C. in overall 1 hour. Then, it was cooled to −78° C. and zinc chloride (3.32 g, 24.36 mmol) was added. The resulting mixture was allowed to warm up to room temperature in 1 hour. Pd(Ph3P)4 (2.346 g, 2.030 mmol), 2-chloropyrimidine (3 g, 26.2 mmol) were added and the mixture was refluxed (external temperature 100° C.) until complete consumption of starting chloropyrimidine (3 hours). The reaction mixture was cooled to room temperature and poured into water (200 ml) cooled to 10° C. It was then extracted with EtOAc (5×200 mls). The collected organic phases, containing large amount of colloid material and water, were washed with brine (200 ml). The water phase was filtered over a gouch, and the solid material was washed with further EtOAc 2×300 mls). The collected organic phases were dried overnight over Na2SO4, filtered and concentrated to give (7 g) the crude material which was purified (Biotage Sp1 over a 240 g Silica Anolgix column, with a 25 g pre-column) to give the title compound D18 as yellow solid (1.8 g). UPLC (Acid GEN_QC_SS): rt=0.58 minutes, peak observed: 197 (M+1). C11H8N4 requires 196.

reactant | Isopropylmagnesium chloride LiCl | 36.5 mmol, 37.9 ml | C(C)(C)[Mg]Cl.[Li+].[Cl-]
reactant | 3-bromo-6-methyl-2-pyridinecarbonitrile | 20.30 mmol, 4 g | BrC=1C(=NC(=CC1)C)C#N | C7H5BrN2
reactant | 2-chloropyrimidine | 26.2 mmol, 3 g | ClC1=NC=CC=N1 | C4H3ClN2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | 24.36 mmol, 3.32 g | [Cl-].[Zn+2].[Cl-]
catalyst | Pd(Ph3P)4 | 2.030 mmol, 2.346 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-Methyl-3-(2-pyrimidinyl)-2-pyridinecarbonitrile | CC1=CC=C(C(=N1)C#N)C1=NC=CC=N1 | C11H8N4
